US08877739B2
Synthesis of 3-[(4S)-4-amino-5-ethoxy-5-oxopentanamido]-5-chloro-2-hydroxybenzene-1-sulfonic acid
After 92 mg (0.33 mmol) of the compound obtained in Step 1, 130 mg (0.33 mmol) of HATU, 45 mg (0.33 mmol) of HOAt and 77 mg (0.33 mmol) of 3-amino-5-chloro2-hydroxybenzenesulfonic acid were suspended in 1.0 ml of DMF, 0.25 ml of pyridine was added to the suspension. The mixture was stirred at room temperature overnight. The solvent was removed by distillation and the mixture was purified in accordance with the purification step A to give the intermediate. The crude product was dissolved in 4.0 ml of TFA. The solution was stirred at room temperature for an hour. The solvent was removed by distillation and the mixture was purified in accordance with the purification step A to give 47.2 mg of the title compound.

reactant | HATU | 0.33 mmol, 130 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOAt | 0.33 mmol, 45 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 3-amino-5-chloro2-hydroxybenzenesulfonic acid | 0.33 mmol, 77 mg | NC=1C(=C(C=C(C1)Cl)S(=O)(=O)O)O | C6H6ClNO4S
reactant | pyridine | 0.25 ml | N1=CC=CC=C1 | C5H5N
reactant | TFA | 4.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
product | 3-[(4S)-4-amino-5-ethoxy-5-oxopentanamido]-5-chloro-2-hydroxybenzene-1-sulfonic acid | 47.2 mg | N[C@@H](CCC(=O)NC=1C(=C(C=C(C1)Cl)S(=O)(=O)O)O)C(=O)OCC | C13H17ClN2O7S
